US08258119B2
Synthesis of N-(2-aminoethyl){3-[(dimethylamino)diazenyl](2-thienyl)}-carboxamide (Compound 11)
To an ice cold (0-5° C.) solution of ethylenediamine (5 mL) in ethanol (5 mL) was added a solution of methyl 3-[(dimethylamino)diazenyl]thiophene-2-carboxylate (250 mg) in ethanol (5 mL) for 5 min and stirred at rt for 24 h. The solution was poured into ice cooled water and saturated with sodium chloride. The solution was extracted with THF (3×100 mL). The combined THF layer was washed with brine and dried over sodium sulfate. The solution was filtered and evaporated the solvent. The residue was chromatographed over silica gel column using chloroform-methanol (90:10) as eluents to give the product as an off-white solid (60 mg, 22%), mp 98-100° C. 1H NMR (400 MHz, CDCl3): δ 8.65 (1H, br s), 7.30 (1H, d, J=5.2 Hz), 7.28 (1H, d, J=5.2 Hz), 3.50-3.57 (5H, m). 3.24 (3H, br s), 2.91 (2H, t, J=6.0 Hz).

reactant | ethylenediamine | 5 mL | C(CN)N | C2H8N2
reactant | methyl 3-[(dimethylamino)diazenyl]thiophene-2-carboxylate | 250 mg | CN(C)N=NC1=C(SC=C1)C(=O)OC | C8H11N3O2S
reactant | water | O | H2O
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | N-(2-aminoethyl){3-[(dimethylamino)diazenyl](2-thienyl)}-carboxamide | 60 mg, 22% | NCCNC(=O)C=1SC=CC1N=NN(C)C | C9H15N5OS
